US05242939
2-Butyl 4-methyl-1-[(4-nitrophenyl)methyl]-1H-benzimidazole
To a slurry of NaH (60%, 0.21 g. 5.3 mmol) in DMF was added with stirring a solution of 2-butyl-4-methyl-benzimidazole (1 g. 5.3 mmol) in DMF (20 mL under nitrogen atmosphere. After the gas evolution was complete, the reaction mixture was cooled in ice and a solution of 4-nitrobenzyl bromide (1.5 g, 5.3 mmol) in DMF (5 mL) was added with stirring. The reaction mixture was allowed to warm up slowly to room temperature and stirred for 16 hours. DMF was distilled under reduced pressure and the residue was taken up in EtOAc, and the solution was washed with water. It was dried over MgSO4 and evaporated to give a solid which was chromatographed (CH2Cl2 /EtOAc 4/1-EtOAc) to give 1.5 g of a solid, MP 115°-116° C.

reactant | NaH | 5.3 mmol, 0.21 g | [H-].[Na+]
reactant | 2-butyl-4-methyl-benzimidazole | 5.3 mmol, 1 g | C(CCC)C=1NC2=C(N1)C=CC=C2C | C12H16N2
reactant | 4-nitrobenzyl bromide | 5.3 mmol, 1.5 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Butyl 4-methyl-1-[(4-nitrophenyl)methyl]-1H-benzimidazole | 1.5 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)[N+](=O)[O-])C=CC=C2C | C19H21N3O2
